US04391828
Novel synthesis of 2,4-bis(1,1-dimethylethyl)-6-[(4-methoxyphenyl)methyl]phenol (Compound B-I).
A mixture of 2,4-di-t-butylphenol (41.2 g), phosphorous acid (2 drops) and toluene (5 ml) was heated to 180°-200° in a three-necked flask fitted with a Dean-Stark trap containing toluene. 4-Methoxybenzyl alcohol (27.6 g) was melted and added in a slow stream to the mixture during 45 min. Heating was continued for a further 15 min by which time the theoretical amount of water (3.6 ml) had distilled. The reaction mixture was then distilled under pressure to give a pale yellow oil which rapidly crystallized. Recrystalization from methanol yielded colorless needless, m.p. and mixed m.p. with authentic material, 84°-85°; yield 59.3 g (91%). Found: C,80.9;H,9.26; calc for C,22H30O2 :C,81.0;H,9.21); 1Hmmr spectrum: δ1.30,9H,S; δ1.38,9H,S; δ3.79,3H,S; δ3.83,2H,S; δ4.61,H,S; δ6.84,2H,D(J=8 Hz); δ7.03, 1H,D(J=2 Hz); δ7.14,2H,D(J=8 Hz); δ7.23,1H,D(J=2 Hz).

reactant | 2,4-di-t-butylphenol | 41.2 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | 4-Methoxybenzyl alcohol | 27.6 g | COC1=CC=C(CO)C=C1 | C8H10O2
catalyst | phosphorous acid | 2 drops | P(O)(O)O | H3O3P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-bis(1,1-dimethylethyl)-6-[(4-methoxyphenyl)methyl]phenol | CC(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)CC1=CC=C(C=C1)OC)O | C22H30O2
